US07321040B2
G [2-(3-Isopropyl-[1,2,4]triazolo[4.3-a]pyridin-6-yloxy)-phenyl]-methanol
A mixture of isobutyric acid 2-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-yloxy)-benzyl ester (130 mg, 0.37 mmol) and potassium hydroxide (103 mg, 1.84 mmol) in tetrahydrofuran (6 mL) and water (1 mL) was heated at 60° C. for 7 hours. The reaction was concentrated in vacuo to a solid. The residue was suspended in water, the solid filtered, then the material suspended in methylene chloride and filtered to give the above named compound as a tan solid (84 mg, 80%).

reactant | isobutyric acid 2-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-yloxy)-benzyl ester | 0.37 mmol, 130 mg | C(C)(C)C1=NN=C2N1C=C(C=C2)OC2=C(COC(C(C)C)=O)C=CC=C2 | C20H23N3O3
reactant | potassium hydroxide | 1.84 mmol, 103 mg | [OH-].[K+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | [2-(3-Isopropyl-[1,2,4]triazolo[4.3-a]pyridin-6-yloxy)-phenyl]-methanol | C(C)(C)C1=NN=C2N1C=C(C=C2)OC2=C(C=CC=C2)CO | C16H17N3O2
